US07504401B2
3-Bromo-5-iodo-phenol (8.48 g, 28.37 mmol) was dissolved in DMF (50 mL) under dry argon and cooled to 0° C. Then potassium carbonate (3.92 g, 28.37 mmol) was added, followed by drop wise addition of 4-methoxybenzyl chloride (3.7 mL, 27.0 mmol). The mixture was slowly warmed to room temperature and stirred for 20 h. Additional 4-methoxybenzyl chloride (0.19 mL, 1.4 mmol) was added and the mixture was stirred for additional 24 h at room temperature. The reaction mixture was diluted with tert-butylmethyl ether (300 mL) and water (150 mL). The layers were separated and the aqueous one extracted with tert-butylmethyl ether (2×150 mL). The combined organics were washed with water and brine (150 mL), dried (Na2SO4) and concentrated to give the crude product which was purified by flash chromatography on silica gel (330 g, AcOEt/heptane 1:9). 1-Bromo-3-iodo-5-(4-methoxy-benzyloxy)-benzene (8.80 g, 59%, purity 80%, HPLC 220 nm) was obtained as a yellow oil.

reactant | 3-Bromo-5-iodo-phenol | 28.37 mmol, 8.48 g | BrC=1C=C(C=C(C1)I)O | C6H4BrIO
reactant | potassium carbonate | 28.37 mmol, 3.92 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-methoxybenzyl chloride | 27.0 mmol, 3.7 mL | COC1=CC=C(CCl)C=C1 | C8H9ClO
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | tert-butylmethyl ether | 300 mL | C(C)(C)(C)OC | C5H12O
solvent | water | 150 mL | O | H2O
catalyst | 4-methoxybenzyl chloride | 1.4 mmol, 0.19 mL | COC1=CC=C(CCl)C=C1 | C8H9ClO
product | 1-Bromo-3-iodo-5-(4-methoxy-benzyloxy)-benzene | 8.80 g, 59% | BrC1=CC(=CC(=C1)OCC1=CC=C(C=C1)OC)I | C14H12BrIO2
